US07078425B2
Phenylbutylamine (8.2 g, 52 mmol) is added to a mixture of BOC-Gly-PNB (14.82 g, 50 mmol) in dioxane (60 mL) and 1 M K2CO3 (60 mL). The mixture is stirred 16 h and then diluted with CH2Cl2 and washed with a saturated NaHCO3 solution until the organic phase is colorless. The organics are dried (MgSO4) and concentrated to provide [(4-phenyl-butylcarbamoyl)-methyl]-carbamic acid tert-butyl ester which is used as is without further purification.

reactant | Phenylbutylamine | 52 mmol, 8.2 g | C1(=CC=CC=C1)CCCCN | C10H15N
reactant | BOC-Gly | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | K2CO3 | 1 M, 60 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [(4-phenyl-butylcarbamoyl)-methyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(NCCCCC1=CC=CC=C1)=O)=O | C17H26N2O3
